US07265246B2
Prepare a solution of (4-phenylfuran-3-yl)methanol (2.3 g, 13.2 mmol) in methylene chloride (20 mL). Add N-methylmorpoline N-oxide (2.2 g, 18.5 mmol) and powdered 4 Å molecular sieves. Cool the mixture to 0° C. and add tetra-n-propyl ammonium perruthenate. Warm the mixture to room temperature and stir for an additional 3 hours. Filter the reaction mixture through Celite® and concentrate the filtrate. Perform flash chromatography on silica gel eluting with 10% diethyl ether/hexane to afford 1.36 g of 4-phenyl-3-formylfuran. 1H NMR (CDCl3) δ 10.01 (s, 1H), 8.15 (s, 1H), 7.60 (s, 1H), 7.35-7.54 (m, 5H).

reactant | (4-phenylfuran-3-yl)methanol | 13.2 mmol, 2.3 g | C1(=CC=CC=C1)C=1C(=COC1)CO | C11H10O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-propyl ammonium perruthenate | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4-phenyl-3-formylfuran | 1.36 g | C1(=CC=CC=C1)C=1C(=COC1)C=O | C11H8O2
